US04399141
Step C: Preparation of 10-isocyano-10-methyl-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cyclohepten
Diisoproylamine (1.1 g, 10.9 mmole) in 25 ml of dry tetrahydrofuran was stirred in a dry ice/acetone bath. Under a nitrogen blanket, this solution was treated with n-butyllithium/hexane (5.0 ml of 2.2 M solution) added dropwise over 10 minutes. After 5 minutes, a solution of 10-isocyano-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (2.4 g, 10.4 mmole) in 25 ml of dry tetrahydrofuran was added dropwise (over 45 minutes) to the lithium diisopropylamide solution. The resulting deep red solution was stirred in the cold for 15 minutes then treated with methyliodide (4.56 g, 32 mmole) added all at once. The mixture was stirred 2 hours in the cold and an additional 1 hour at room temperature. The solvent was removed in vacuo and the residue chromatographed on 75 g of silica gel, eluted with methylene chloride. The combined product fractions were evaporated in vacuo to give 2.2 g (86%) solid. Recrystallization from ether gave, m.p. 146°-147.5° C.

reactant | Diisoproylamine | 10.9 mmole, 1.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 2.2 M, 5.0 ml | C(CCC)[Li].CCCCCC
reactant | 10-isocyano-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 10.4 mmole, 2.4 g | [N+](#[C-])C1CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2 | C17H13N
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyliodide | 32 mmole, 4.56 g | CI | CH3I
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 10-isocyano-10-methyl-5-methylene-10,11-dihydro-5H-dibenzo[a,d]cyclohepten | 2.2 g, 86% | [N+](#[C-])C1(CC2=C(C(C3=C1C=CC=C3)=C)C=CC=C2)C | C18H15N
